US07534797B2
A flask containing crude (3-chloropyrazin-2-yl)(3-phenylquinoxalin-6-yl)methanol (153 mg, ˜0.44 mmol) was flashed with Ar and charged with phthalimide (71 mg, 0.48 mmol) and triphenylphosphine (130 mg, 0.48 mmol) and anh. THF (10 mL). DIAD (0.1 mL, 0.48 mmol) was added slowly dropwise at rt and then the reaction was stirred at rt for 16 h. The reaction was concentrated under reduced pressure and purified by flash chromatography (silica gel, 5% EtOAc in DCM to 10%) affording 2-[(3-chloropyrazin-2-yl)(3-phenylquinoxalin-6-yl)methyl]-1H-isoindole-1,3(2H)-dione compound as a creamy solid. To stirred solution of the crude 2-[(3-chloropyrazin-2-yl)(3-phenylquinoxalin-6-yl)methyl]-1H-isoindole-1,3(2H)-dione (147 mg, 0.31 mmol) in anh. EtOH (12 mL) and anh. DCM (2 mL) under Ar was added anh. hydrazine (0.03 mL, 0.9 mmol). The reaction mixture was stirred at rt for 22 h. The 1:1 mixture of the product and a partially cleaved phthalimide was concentrated under reduced pressure at rt and dried under high vacuum overnight. The light yellow, solid residue was dissolved in anh. i-PrOH (6 mL) and anh. CHCl3 (3 mL) and heated under Ar at 50° C. for 16 h. Later the reaction was cooled to rt, evaporated to dryness and triturated with DCM. The DCM aliquots were filtered through a pad of Celite affording the title compound as a light yellow solid; 1H NMR (400 MHz, CD3OD/CDCl3) δ 9.37 (s, 1H), 8.71 (d, J=2.4 Hz, 1H), 8.39 (d, J=2.4 Hz, 1H), 8.23 (d, J=6.8 Hz, 2H), 8.12 (s, 1H), 8.06 (d, J=8.4 Hz, 1H), 7.88 (dd, J=0.8 Hz, 8.8 Hz, 1H), 7.62-7.52 (m, 3H), 5.81 (s, 1H). MS (ES+): m/z 348.0 (40) [MH+]; HPLC: tR=2.08 min (OpenLynx, polar—5 min).

reactant | (3-chloropyrazin-2-yl)(3-phenylquinoxalin-6-yl)methanol | ˜0.44 mmol, 153 mg | ClC=1C(=NC=CN1)C(O)C=1C=C2N=C(C=NC2=CC1)C1=CC=CC=C1 | C19H13ClN4O
reactant | phthalimide | 0.48 mmol, 71 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.48 mmol, 130 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.48 mmol, 0.1 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[(3-chloropyrazin-2-yl)(3-phenylquinoxalin-6-yl)methyl]-1H-isoindole-1,3(2H)-dione | ClC=1C(=NC=CN1)C(N1C(C2=CC=CC=C2C1=O)=O)C=1C=C2N=C(C=NC2=CC1)C1=CC=CC=C1 | C27H16ClN5O2
